Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hemoptysis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with history of 
well-controlled asthma presenting with hemoptysis after a 
mechanical fall.

The patient reports that he was in his usual state of health on 
___. He was taking his dog out and he slipped on the top step of 
the stairs leading into his house. The step was slippery due to 
snow. He denies any antecedent symptoms such as chest pain, 
palpitations, shortness of breath, dizziness, lightheadedness. 
He fell onto his left side, primarily onto his left 
hip/buttocks. He felt slightly sore after the fall, for which he 
took 6 tablets of ibuprofen, but otherwise he felt ok after the 
fall. He specifically denies any chest pain or shortness of 
breath after the fall.

The following day on ___, at 230 ___ he had an episode of 
hemoptysis. He coughed up between 1 teaspoon and 1 tablespoon of 
blood. He went to work that evening and had another episode of 
hemoptysis around 8 pm, and was referred to the ED at the 
insistence of his co-workers. He denies any shortness of breath,
chest pain, fevers, chills. His last episode of hemoptysis was 
just upon arrival to the ED on the evening of ___, he has had no 
further episodes since arrival.

In the ED, initial vitals: 98.1 65 176/78 16 97% RA  Exam 
notable for:
- Primary: ABC intact, GCS 15
- Secondary: blood in mouth, small vol hemoptysis, ecchymosis
over R scapular tip
- EFAST: negative
Labs notable for: WBC 13.8->11.7, Hb 14.5, BMP wnl
Imaging notable for: CTA chest without acute process
Patient given: 
___ 18:28 IH Albuterol 0.083% Neb Soln 1 NEB  

On arrival to the floor, the patient reports that he feels well 
and has no acute complaints. No chest pain, palpitations, 
shortness of breath, cough, or hemoptysis.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
Asthma
 
Social History:
___
Family History:
No known family history of pulmonary disease.
 
Physical Exam:
VITALS: 98.7 161/77 62 18 98 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; mild TTP over left iliac
crest; no spinal tenderness
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

Discharge exam
98.1 PO 151 / 88 60 18 98 Ra
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; mild TTP over left iliac
crest; no spinal tenderness
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

     

 
Pertinent Results:
Admission labs

___ 09:39PM BLOOD WBC-13.8* RBC-4.98 Hgb-14.5 Hct-44.9 
MCV-90 MCH-29.1 MCHC-32.3 RDW-12.6 RDWSD-41.2 Plt ___
___ 09:39PM BLOOD Glucose-120* UreaN-15 Creat-1.2 Na-145 
K-3.6 Cl-104 HCO3-26 AnGap-15
___ 05:45AM BLOOD Calcium-9.7 Phos-3.9 Mg-1.9

Discharge labs

___ 07:06AM BLOOD WBC-10.8* RBC-5.35 Hgb-15.5 Hct-46.1 
MCV-86 MCH-29.0 MCHC-33.6 RDW-12.6 RDWSD-39.4 Plt ___
___ 07:06AM BLOOD Glucose-96 UreaN-16 Creat-1.0 Na-139 
K-4.2 Cl-100 HCO3-23 AnGap-16
___ 07:06AM BLOOD Calcium-9.9 Phos-3.5 Mg-2.0

Imaging
===================================
CTA chest ___
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Infectious or inflammatory small airways disease in both 
lower lobes, more pronounced in the left lower lobe, with 
associated bronchial wall thickening  and mucous plugging. 
3. Small amount of secretions within the distal trachea and 
carina. 
4. No acute traumatic injury identified. 

CXR ___
FINDINGS:  
  
Heart size is mildly enlarged.  Mediastinal and hilar contours 
are 
unremarkable.  Pulmonary vasculature is normal.  Lungs appear 
clear.  No 
pleural effusion or pneumothorax.  No displaced fractures are 
evident. 
  
IMPRESSION:  
  
No acute cardiopulmonary process 

 
Brief Hospital Course:
Mr. ___ is a ___ man with history of 
well-controlled asthma presenting with hemoptysis after a 
mechanical fall.

ACUTE/ACTIVE PROBLEMS:
# Hemoptysis: Patient presenting with several episodes of 
small-volume hemoptysis after mechanical fall, suspect related 
to mild blunt chest trauma. CTA without acute process to explain 
hemoptysis, including no PE or acute aortic abnormality. CT did
show some airway disease, worst in left lower lobe. Although 
pneumonia or bronchitis can cause hemoptysis, he had no clinical 
evidence of pulmonary infection therefore antibiotics were 
deferred. His Hgb remained stable and no further episodes of 
hemoptysis during admission. 

# S/p fall: Patient presenting after mechanical fall on slippery 
step. Had mild left back pain. Pain controlled with Tylenol prn. 


# Leukocytosis: Patient with mild leukocytosis on admission, 
resolved without intervention

# Hypertension: Mildly hypertensive upon arrival, may be 
secondary to anxiety or discomfort.
- Outpatient follow up as below

CHRONIC/STABLE PROBLEMS:
# Asthma: Well-controlled. Uses inhaler ___ times per week.
- Continued albuterol inhaler as needed

Transitional care issues
[ ] patient without insurance or PCP, encouraged to download 
___ app if no insurance available through his employer

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mechanical fall
Asthma
Hemoptysis (Resolved)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for coughing up blood. You had a CT scan which 
showed mild airway inflammation and some mucous but no blood 
clots or masses. You labs were normal. 

Please establish care with a primary doctor so that your asthma 
may be monitored and you can have regular check ups. 

Thank you for allowing us to participate in your care, 
Your ___ team
 
Followup Instructions:
___